* Hierarchical schematic candidate: actual PDK FET cores, ideal lumped passives.
* Explicit external bias, control and sample clocks; no PLL/quadrature/ADC yet.
* Include ring_vco, lo_buffer, lna_cs_core, mixer, bb_filter_section and
* rf_if_transmission_gate definitions before this file.
* RF_IN is an external voltage port; matching/source impedance belongs in bench.
.subckt pt_rf_rx_candidate_split RF_IN HP HN RFBIAS BBBIAS CTRL SC SCB VDDRF VDDPLL VSS REGEN
XVCO CTRL REGEN VDDPLL VSS CP CN pt_split_ring LOAD_L=5.25u CAP_W=4u CAP_L=3u
CLOADP CP VSS 25f
CLOADN CN VSS 25f
CCP CP BP 200f
CCN CN BN 200f
RFBP BP XBP.MID 100k
RFBN BN XBN.MID 100k
XBP BP LO VDDRF VSS pt_lo_buffer S=1
XBN BN LOB VDDRF VSS pt_lo_buffer S=1
RB GATE RFBIAS 1meg
CC RF_IN GATE 20p
RD VDDRF DRAIN 300
RS SOURCE VSS 82
XLNA GATE DRAIN SOURCE VSS wifi_lna_cs_core
XMIX DRAIN LO LOB IP INN VSS wifi_rf_switch_mixer
RIP IP VSS 1k
RIN INN VSS 1k
CIP IP VSS 1p
CIN INN VSS 1p
XF IP INN FP FN BBBIAS VDDRF VSS pt_bb_filter RFB=20k C=20p
XS FP FN HP HN SC SCB VDDRF VSS wifi_if_transmission_gate
CHP HP VSS 5p
CHN HN VSS 5p
.ends pt_rf_rx_candidate_split
